US04293548
A mixture of 3.8 g of 3,3-ethylenedioxy-18-ethynylpregn-5-en-20-one and 4.4 g of lead tetraacetate in 50 ml of acetic acid is heated at 70° C. for 24 hours. The mixture is then cooled and poured into water and then extracted with ether. The ether extract is washed with water, aqueous sodium bicarbonate and brine and then dried and concentrated. The residue is chromatographed on silica gel using ethyl acetate/hexane to give 21-acetoxy-3,3-ethylenedioxy-18-ethynylpregn-5-en-20-one.

reactant | 3,3-ethylenedioxy-18-ethynylpregn-5-en-20-one | 3.8 g | C1OC2(CC3=CC[C@H]4[C@@H]5CC[C@H](C(C)=O)[C@]5(CC[C@@H]4[C@]3(CC2)C)CC#C)OC1 | C25H34O3
reactant | lead tetraacetate | 4.4 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | water | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 21-acetoxy-3,3-ethylenedioxy-18-ethynylpregn-5-en-20-one | C(C)(=O)OCC([C@H]1CC[C@H]2[C@@H]3CC=C4CC5(CC[C@]4(C)[C@H]3CC[C@]12CC#C)OCCO5)=O | C27H36O5
